US05908840
3-Bromo-N-[2-(dimethylamino)ethyl]-11-oxo-11H-pyrido[2,1-b]quinazoline-6-carboxamide
The 3-bromo-11-oxo-11H-pyrido[2,1-b]quina-zoline-6-carboxylic acid was dissolved in dichloromethane (25 ml). To the reaction mixture was added N,N-dimethyl-ethylenediamine (1 g; 0.0023 mol), followed by the BOP reagent (1 g, 0.0023 mol). The reaction mixture was stirred at room temperature for 30 minutes, diluted with water and extracted with dichloromethane. The combined organic phases were dried, filtered and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (elution with 10% methanol/chloroform) to provide product as a yellow solid: 0.338 g.

reactant | 3-bromo-11-oxo-11H-pyrido[2,1-b]quina-zoline-6-carboxylic acid | BrC1=CC=C2C(N3C(=NC2=C1)C(=CC=C3)C(=O)O)=O | C13H7BrN2O3
reactant | N,N-dimethyl-ethylenediamine | 0.0023 mol, 1 g | CN(CCN)C | C4H12N2
reactant | BOP reagent | 0.0023 mol, 1 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-Bromo-N-[2-(dimethylamino)ethyl]-11-oxo-11H-pyrido[2,1-b]quinazoline-6-carboxamide | BrC1=CC=C2C(N3C(=NC2=C1)C(=CC=C3)C(=O)NCCN(C)C)=O | C17H17BrN4O2
